Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R proximal humerus fracture
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ hx of HTN, HLD, BPH, CAD w/ Bypass in ___ who presents 
for R shoulder pain after a fall. He states he was hurrying to 
get to the T when he tripped and fell landing on his R shoulder 
with his arm held to his body. He had immediate pain. He denies 
numbness or tingling in his hand or arm. He denies any prior 
major injuries or surgeries with his R arm. We were consulted 
for a proximal R humerus fracture.
 
Past Medical History:
HTN, HLD, BPH, CAD w/ Bypass in ___
 
Social History:
___
Family History:
None
 
Physical Exam:
AFVSS
NVI distally in RUE (SILT m/r/u; Fire fpl/epl/dio; WWP)
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a right proximal humerus fracture and was admitted to 
the orthopedic surgery service. The patient was admitted for 
pain control and discharged on POD1. Discharge to home was 
deemed appropriate.  The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, and the patient was voiding/moving bowels 
spontaneously. The patient is NVI distally in the right upper 
extremity, and will be discharged on aspirin for DVT 
prophylaxis. The patient will follow up with Dr. ___ 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
1.  Aspirin 81 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Losartan Potassium 25 mg PO DAILY  
6.  Metoprolol Tartrate 50 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
8.  Torsemide 20 mg PO DAILY  
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Gabapentin 200 mg PO TID Neuropathic pain 
RX *gabapentin 100 mg 2 capsule(s) by mouth TID: PRN Disp #*21 
Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0 
4.  Clopidogrel 75 mg PO DAILY  
5.  Losartan Potassium 25 mg PO DAILY  
6.  Metoprolol Tartrate 50 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
8.  Torsemide 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R proximal humerus fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
- You were in the hospital for orthopedic fracture. It is normal 
to feel tired or "washed out", and this feeling should improve 
over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- NWB RUE in sling

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take aspirin daily for 2 weeks

 
Followup Instructions:
___